US09278983B2
A mixture of 2-(2-ethylsulfanyl-phenyl)-6-iodo-3-methyl-3H-imidazo[4,5-b]pyridine (311 mg), copper iodide (1.5 g), sodium heptafluorobutyrate (1.8 g), NMP (5 ml), and xylene (25 ml) was stirred with heating at 150° C. for 12 hours. Into the reaction mixture cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution and 28% aqueous ammonia were poured, and extracted with tart-butyl methyl ether. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 118 mg of 2-(2-ethylsulfanyl-phenyl)-6-heptafluoropropyl-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 128).

reactant | 2-(2-ethylsulfanyl-phenyl)-6-iodo-3-methyl-3H-imidazo[4,5-b]pyridine | 311 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)I)N1C | C15H14IN3S
reactant | sodium heptafluorobutyrate | 1.8 g | FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ammonia | N | H3N
catalyst | copper iodide | 1.5 g | [Cu](I)I
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 2-(2-ethylsulfanyl-phenyl)-6-heptafluoropropyl-3-methyl-3H-imidazo[4,5-b]pyridine | 118 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(C(C(F)(F)F)(F)F)(F)F)N1C | C18H14F7N3S
